US06353111B1
A solution of (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid methyl ester (1.00 g, 3.1 mmol) in ethanol (17 mL) was treated with a 1N aqueous sodium hydroxide solution (7 mL). The solution was heated at 45-50° C. for 15 h, at which time, thin layer chromatography analysis of the mixture indicated the absence of starting material. The reaction mixture was then concentrated in vacuo to remove ethanol, and thc residue was diluted with water (30 mL) and extracted with diethyl ether (1×50 mL) to remove any neutral impurities. The aqueous layer was acidified with a 1N aqueous hydrochloric acid solution. The resulting acid was extracted into ethyl acetate (2×30 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid (0.95 g, 99%) as a white solid: mp 162-165° C.; EI-HRMS m/e calcd for C16H10O4S (M+H)+309.1160, found 308.1158.

reactant | (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid methyl ester | 3.1 mmol, 1.00 g | COC(\C(=C\CC1CCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H22O4S
reactant | sodium hydroxide | 1N, 7 mL | [OH-].[Na+]
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid | 0.95 g, 99% | C1(CCCC1)C/C=C(/C(=O)O)\C1=CC=C(C=C1)S(=O)(=O)C | C16H20O4S
